US08957074B2
The 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid was combined with 2-(3,8-diazabicyclo[3.2.1]octan-8-yl)ethanol following amide formation method 3 which gave 7-cyclopentyl-2-(5-(8-(2-hydroxyethyl)-3,8-diazabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (18 mg, 59% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.00-8.87 (m, 1H) 8.87-8.78 (m, 1H) 8.57 (d, J=8.08 Hz, 1H) 8.44 (s, 1H) 7.79 (dd, J=8.59, 2.53 Hz, 1H) 6.54-6.43 (m, 1H) 4.81 (dq, J=9.09, 8.93 Hz, 1H) 4.51 (br. s., 1H) 3.82-3.49 (m, 4H) 3.40-2.99 (m, 10H) 2.69-2.44 (m, 4H) 2.16-1.99 (m, 4H) 1.91 (d, J=5.56 Hz, 2H) 1.83-1.45 (m, 4H); HR-MS (m/z MH+) 533.30 RT 2.56 min

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 2-(3,8-diazabicyclo[3.2.1]octan-8-yl)ethanol | C12CNCC(CC1)N2CCO | C8H16N2O
product | 7-cyclopentyl-2-(5-(8-(2-hydroxyethyl)-3,8-diazabicyclo[3.2.1]octane-3-carbonyl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 18 mg, 59% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC1CCC(C2)N1CCO)C(=O)N(C)C | C28H36N8O3
